US04971963
In 30 ml of ethanol was suspended 2.25 g of 2,5-dimercapto-1,3,4-thiadiazole, and 30 ml of 1N-sodium hydroxide solution was added to the suspension. The mixture was stirred at room temperature for 30 minutes. To the mixture was added 2.36 g of N,N-dimethylchloroacetamidine. The mixture was stirred at room temperature for an hour and concentrated under reduced pressure. The precipitating crystals were collected by filtration and washed with cold water and then a (1:1) mixture of methanol and ethyl ether to obtain 1.87 g of 2-(N,N-dimethylamidinomethylthio)-5-mercapto-1,3,4-thiadiazole as colorless crystals (mp 95°-97° C.).

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 2.25 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylchloroacetamidine | 2.36 g | CN(C(CCl)=N)C | C4H9ClN2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(N,N-dimethylamidinomethylthio)-5-mercapto-1,3,4-thiadiazole | 1.87 g | CN(C(=N)CSC=1SC(=NN1)S)C | C6H10N4S3
